Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
doxycycline / ibuprofen
 
Attending: ___.
 
Chief Complaint:
Allergic Reaction
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Mr. ___ is a ___ with no significant past medical history 
who presents as a transfer from ___ for evaluation 
of anaphylaxis and allergy consultation.
The patient was in his usual state of health and was painting 
his basement on the evening of ___ with latex paint in an area 
noted to have poor ventilation. The patient was able to paint 
without dyspnea or other symptoms.  The next day (___) around 
1800 the patient noted the gradual onset of nausea which caused 
him to go to bed early. He then woke up the next day (___) with 
chills and noted pruritic urticaria on his wrists bilaterally at 
which point he took OTC Benadryl. A few hours later the patient 
noticed the development of urticaria on his chest and arms and 
took some more Benadryl and then noticed the urticaria spread to 
his legs.  Later in the day, the patient noticed that the 
urticaria spread to his face, at which point he presented to the 
___ at ___ and received Pepcid and prednisone 20mg. He 
followed up with his PCP and reports he was still covered in 
hives. At that point the patient's prednisone dose was increased 
and three hours later he noticed that his lips were numb and he 
felt a numb sensation in his throat at which point he 
prepresented to the ___.  
In the ___ on ___, the patient was given an EpiPen x2 with 
resolution of his symptoms and he was admitted until ___ for 
observation until he was discharged. No discharge summary 
accompanies the patient, but it appears he may have received 
methylprednisolone while in the hospital. No allergy consult was 
obtained as the OSH did not have this service.  
The evening of the patient's discharge (___),  he reports 
taking an ibuprofen for some general discomfort and then shortly 
after noticed the sudden onset of a globus sensation which was 
associated with voice change and the feeling of throat closure. 
He used his Epipen which relived his symptoms, however these 
symptoms recurred while he was being driven by his wife to the 
hospital. Upon presentation to ___, it again is unclear what 
he received, but he was then transferred to ___ for further 
management and allergy consultation.  
He currently denies fevers or chills. He denies chest pain or 
tightness.  He denies dyspnea or wheezing. He denies n/v/d, and 
pain, and dysuria.  
The patient does not get uritcaria with changes in temperature.  

The patient was seasonal allergies and allergies to dogs and 
cats and reports he saw an allergist a few years ago for these 
allergies but notes no significant diagnoses were made. He has a 
nephew with "severe allergies".  

In the ___, initial vitals were:  T 97.1 HR 62 BP 166/104 R 20 
SpO2 95% RA  
 - Exam notable for: clear lungs, tongue is normal size. No skin 
lesions. Bedside scope shows non-edematous vocal cords  
 - Labs notable for: None obtained  
 - Imaging was notable for: None obtained  
While in the ___ he noted some respiratory distress. He received 
IV Benadryl and lorazepam which relieved his symptoms. His upper 
airway was imaged with a bedside scope and no laryngeal or vocal 
cord edema was noted.  
- Patient was given:  
 ___ 00:49 IV DiphenhydrAMINE 50 mg  
 ___ 00:56 IV Lorazepam 1 mg  
Upon arrival to the floor, patient reports resolution of his 
symptoms.
 
Past Medical History:
Obesity
Insomnia
Likely OSA
HTN
Allergic Asthma
 
Social History:
___
Family History:
Penicillin allergies
___'s thyroiditis
Nephew has severe allergies
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
========================
Vital Signs: T 97.2 BP 145/92 HR 65 R 18 SpO2 97 RA  
GEN: NAD  
HEENT: no angioedema, no tongue swelling, uvula midline  
___: RRR no MRG  
RESP: No wheezing, CTAB  
ABD: obese, soft, NTND  
EXT: warm without edema  
SKIN: no urticaria, blanching erythema noted on neck and upper 
shoulders  
NEURO: CN II-XII grossly intact, strength ___ UE and ___ 
bilaterally

DISCHARGE PHYSICAL EXAM:
========================
VS - 98.2/97.4, 126-157/69-105, 52-91, ___, 95-99% RA
General: well appearing, NAD  
HEENT: MMM, EOMI, no angioedema, oropharyngeal swelling or 
erythema
Neck: no JVD, no LAD  
CV: rrr, no m/r/g  
Lungs: CTAB, breathing comfortably, no wheezing
Abdomen: soft, nontender, nondistended
Ext: warm and well perfused, pulses, no edema  
Neuro: CN II-XII grossly intact, strength ___ UE and ___ 
bilaterally, ambulating normally
Skin: urticaria on bilateral tops of feet; back, abdomen, chest, 
arms, hands, face, legs all clear.
 
Pertinent Results:
ADMISSION LABS:
=============
___ 07:51AM BLOOD WBC-12.0* RBC-4.72 Hgb-14.4 Hct-42.6 
MCV-90 MCH-30.5 MCHC-33.8 RDW-12.9 RDWSD-41.9 Plt ___
___ 07:51AM BLOOD Neuts-85* Bands-0 Lymphs-11* Monos-4* 
Eos-0 Baso-0 ___ Myelos-0 AbsNeut-10.20* 
AbsLymp-1.32 AbsMono-0.48 AbsEos-0.00* AbsBaso-0.00*
___ 07:51AM BLOOD Hypochr-NORMAL Anisocy-1+ Poiklo-1+ 
Macrocy-NORMAL Microcy-NORMAL Polychr-NORMAL Ovalocy-1+ Burr-1+
___ 07:51AM BLOOD Glucose-118* UreaN-21* Creat-0.9 Na-141 
K-4.3 Cl-101 HCO3-26 AnGap-18
___ 07:51AM BLOOD ALT-49* AST-17 LD(LDH)-204 AlkPhos-39* 
TotBili-0.4
___ 07:51AM BLOOD Calcium-8.6 Phos-5.3* Mg-2.5
___ 07:51AM BLOOD C3-120 C4-19
___ 07:26PM BLOOD SED RATE-2      
___ 07:51AM BLOOD TRYPTASE-PND

DISCHARGE LABS:
=============
___ 07:30AM BLOOD WBC-11.3* RBC-4.98 Hgb-14.8 Hct-45.0 
MCV-90 MCH-29.7 MCHC-32.9 RDW-12.9 RDWSD-41.6 Plt ___
___ 07:30AM BLOOD Glucose-73 UreaN-25* Creat-0.9 Na-142 
K-3.7 Cl-103 HCO3-26 AnGap-17
___ 07:30AM BLOOD Calcium-8.3* Phos-4.1 Mg-2.6
___ 07:30AM BLOOD LATEX ALLERGY TEST-PND
___ 07:30AM BLOOD CU INDEX (ANTI-FCER1 ANTIBODY)-PND
 
Brief Hospital Course:
Mr. ___ is a ___ year old man with untreated HTN and obesity, 
who was transferred from ___ to ___ s/p multiple 
episodes of urticaria and feeling of throat closing in the last 
week, requiring multiple epipens, concerning for anaphylaxis or 
new onset of chronic urticaria, admitted for allergy 
consultation and observation.

# Urticaria
# Globus Sensation
Given his acute onset urticaria and sensation of throat closing 
up that responded to Epipens prior to admission, Mr. ___ 
symptoms were initially concerning for an anaphylactic reaction 
to an unknown stimulus. Prior to admission to ___, 
Mr. ___ experienced several episodes of hives on his hands, 
feet, and trunk with associated globus sensation prompting his 
wife to deliver an Epipen with improvement in symptoms. Given 
recurrent hives and concern for anaphylaxis, he was initially 
admitted to ___ for monitoring without evidence of 
anaphylaxis. Patient was then transferred to ___ for allergy 
consultation after he re-presented to ___ after his 
discharge from ___. Once at ___, Allergy was 
consulted and felt his presentation was more consistent with 
recurrent urticaria and Allergy was less suspicious for an IgE 
mediated allergy.  His current urticaria might be related to 
infectious syndrome (chills, cough, sore throat) or may be 
secondary to stress (recent death of father in law) and may be 
exacerbated by the patient's recent use of ibuprofen and 
alcohol. Of note, Mr. ___ reported a similar event happen to 
him several years prior with weeks of hives in the context of 
family stress. Mr. ___ sensation of his throat closing was 
felt to be related to anxiety and stress and did not reflect 
true laryngeal edema as evaluation of his larynx and oropharnynx 
in the ___ did not show any edema. He was discharged on 
fexofenadine 360 mg BID and a prednisone taper that was started 
at 60 mg to taper down by 10mg every ___ days. Mr. ___ 
requested allergy follow up with Dr. ___ will follow up the 
following labs: tryptase, latex IgE, ESR, and CU index. He was 
discharged to home with Epipens and was instructed to give 
himself an Epipen or have someone give him an Epipen if he 
develops tongue or lip swelling, nausea or vomiting, or 
difficulty breathing with wheezing or stridor, or if he passes 
out in the setting of any of these symptoms and hives. 

# Insomnia
On lorazepam 0.5-1.0mg as needed for sleep at home. Continued as 
inpatient.

# Hypertension
Patient with BPs consistently >140/90. 

Transitional Issues
=============================
- Patient with BPs in patient ranging 140s/80s. Please start 
antihypertensives as clinically indicated. 
- Please ensure patient has Epipens as needed in house, car and 
other places he most frequents.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Albuterol Inhaler ___ PUFF IH Q6H:PRN wheezing 
2. LORazepam 0.5-1 mg PO QHS:PRN insominia 

 
Discharge Medications:
1.  EPINEPHrine (EpiPEN) 0.3 mg IM ONCE MR1 Duration: 1 Dose 
RX *epinephrine [EpiPen 2-Pak] 0.3 mg/0.3 mL 0.3 mg SC as needed 
Disp #*2 Packet Refills:*0 
2.  Fexofenadine 360 mg PO BID 
RX *fexofenadine 180 mg 2 tablet(s) by mouth twice per day Disp 
#*120 Tablet Refills:*0 
3.  PredniSONE 60 mg PO DAILY Duration: 2 Doses 
Take on ___ and ___ 
RX *prednisone 20 mg 3 tablet(s) by mouth daily Disp #*6 Tablet 
Refills:*0 
4.  PredniSONE 40 mg PO DAILY Duration: 2 Doses 
Take on ___ and ___ 
Tapered dose - DOWN 
RX *prednisone 20 mg 2 tablet(s) by mouth daily Disp #*4 Tablet 
Refills:*0 
5.  PredniSONE 30 mg PO DAILY Duration: 2 Doses 
Take on ___ and ___ 
Tapered dose - DOWN 
RX *prednisone 10 mg 3 tablet(s) by mouth daily Disp #*6 Tablet 
Refills:*0 
6.  PredniSONE 20 mg PO DAILY Duration: 2 Doses 
Take on ___ and ___ 
RX *prednisone 20 mg 1 tablet(s) by mouth daily Disp #*2 Tablet 
Refills:*0 
7.  PredniSONE 10 mg PO DAILY Duration: 2 Doses 
Take on ___ and ___ and ___ 
RX *prednisone 10 mg 1 tablet(s) by mouth daily Disp #*3 Tablet 
Refills:*0 
8.  PredniSONE 5 mg PO DAILY Duration: 3 Doses 
Take on ___ and ___ and ___ 
RX *prednisone 5 mg 1 tablet(s) by mouth daily Disp #*3 Tablet 
Refills:*0 
9.  Albuterol Inhaler ___ PUFF ___ Q6H:PRN wheezing  
10.  LORazepam 0.5-1 mg PO QHS:PRN insominia  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnosis:
Urticaria
Anaphylaxis

Secondary Diagnosis:
Untreated HTN

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

Why was I admitted to the hospital?
==================================
- You had hives and the sensation that your throat was closing.

What was done for me while I was here?
=====================================
- Your airway was examined and there was no sign of your throat 
closing
- We did not find a specific trigger or cause of your hives.  
- It is possible that your hives represent a condition called 
"chronic urticaria", but this requires further evaluation by an 
allergist.  
- It is also possible that when you feel anxiety, you may feel 
short of breath or like your throat is closing, when it is 
actually not.

What should I do next?
=====================
- Please take your medicines as prescribed including your 
prednisone taper and your Allegra.
- Please read the handout on urticaria that was printed for you.
- Please follow up with the allergist as scheduled.
- Please make a follow up appointment with your primary care 
doctor in one week.
- Please keep an Epipen in your home, in your car, and at places 
you most frequent in case you experience a severe allergic 
reaction.

We wish you the best in health moving forward,

Your ___ Care Team
 
Followup Instructions:
___